US09079866B2
5-{2′-[(4-Aminopyrimidin-2-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 2-(2-bromophenoxy)pyrimidin-4-amine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C20H15FN6O, 374.13; m/z found, 375.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.49-8.43 (d, J=1.4, 2H), 7.79-7.72 (d, J=5.9, 1H), 7.51-7.47 (dd, J=7.6, 1.7, 1H), 7.47-7.41 (m, 2H), 7.39-7.28 (m, 3H), 7.22-7.17 (dd, J=8.1, 1.2, 1H), 6.16-6.05 (d, J=105.9, 1H).

reactant | 2-(2-bromophenoxy)pyrimidin-4-amine | BrC1=C(OC2=NC=CC(=N2)N)C=CC=C1 | C10H8BrN3O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{2′-[(4-Aminopyrimidin-2-yl)oxy]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine | NC1=NC(=NC=C1)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C20H15FN6O
